US04079076
To 166 ml. of acetic anhydride were dropped 27.7 g. 20% nitric acid at 25° C. under ice cooling over a 45 minute period. This was followed by the hour long addition of 19.5 g. of 1,3-cyclo hexadiene at 25° C. (ice cooling from time to time). After an additional hour stirring the reaction was poured onto ice and worked up as above. Purification over silicagel yielded acetic acid (4-nitro-cyclohex-2-en-1-yl)ester as a cis/trans mixture.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 1,3-cyclo hexadiene | C1=CC=CCC1 | C6H8
product | acetic acid (4-nitro-cyclohex-2-en-1-yl)ester | [N+](=O)([O-])C1C=CC(CC1)OC(C)=O | C8H11NO4
